US06004982
EXAMPLE 2B Intermediate: 4-[2-(2,3-Dimethoxyphenyl)-1-hydroxyethyl]piperidine trifluoroacetamide
A mixture of 4-[2-(2,3-dimethoxyphenyl)-1-(trifluoro acetyloxy)ethyl]piperidine trifluoroacetamide compound (2.3 g, 6.0 mmol), K2CO3 (powdered, 1.0 g 6.6 mmol) and anhydrous methanol (15 ml) was stirred at ambient temperature for 3 h. The reaction was filtered and the filtrate concentrated to 2.3 g of a thick, yellow oil. The oil was triturated with Et2O (a white solid resulted). The solid was filtered, and the filtrate concentrated to afford a thick yellow oil.

reactant | 4-[2-(2,3-dimethoxyphenyl)-1-(trifluoro acetyloxy)ethyl]piperidine trifluoroacetamide | 6.0 mmol, 2.3 g | FC(C(=O)N)(F)F.COC1=C(C=CC=C1OC)CC(OC(C(F)(F)F)=O)C1CCNCC1
reactant | K2CO3 | 6.6 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | 4-[2-(2,3-Dimethoxyphenyl)-1-hydroxyethyl]piperidine trifluoroacetamide | FC(C(=O)N)(F)F.COC1=C(C=CC=C1OC)CC(O)C1CCNCC1 | InChI=1S/C15H23NO3.C2H2F3NO/c1-18-14-5-3-4-12(15(14)19-2)10-13(17)11-6-8-16-9-7-11;3-2(4,5)1(6)7/h3-5,11,13,16-17H,6-10H2,1-2H3;(H2,6,7)
